US06362178B1
2-[2-Ethoxy-5-(4-methyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride
100 mg (0.211 mmol) of 2-[2-ethoxy-5-(4-methyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one are suspended in 5 ml of diethyl ether, admixed with 0.23 ml of a 1M solution of HCl in ether and stirred at room temperature for 15 minutes. The solvent is removed under reduced pressure. This gives 107 mg (97%) of 2-[2-ethoxy-5-(4-methyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride.

reactant | 2-[2-ethoxy-5-(4-methyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 0.211 mmol, 100 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C22H30N6O4S
reactant | HCl | Cl | ClH
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-[2-Ethoxy-5-(4-methyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride | Cl.C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | InChI=1S/C22H30N6O4S.ClH/c1-5-7-19-23-15(3)20-22(29)24-21(25-28(19)20)17-14-16(8-9-18(17)32-6-2)33(30,31)27-12-10-26(4)11-13-27;/h8-9,14H,5-7,10-13H2,1-4H3,(H,24,25,29);1H
